US07208493B2
N-[2-(1H-Indol-2-yl)-phenyl]-3-(2-methoxy-phenyl)-propionamide
Prepared from 2-(2-aminophenyl) indole and 3-(2-methoxyphenyl) propionic acid in 62% yield following procedure 1. The product was crystallized from acetonitrile. 96% Purity by LC/MS (TIC, DAD), Mass-spec [M+H+]=371, 1H NMR (MeOH-d4): 2.62 t, 7.5 Hz (2H), 2.97 t, 7.5 Hz (2H), 3.74 s (3H, OMe), 6.40 s (1H), 6.81 t, 7 Hz (1H), 6.88 d, 8 Hz (1H), 7.03 t, 8 Hz (1H), 7.10–7.14 m (2H), 7.17 t, 8 Hz (1H), 7.27 t, 7 Hz (1H), 7.33 td, 7.5, 1 Hz (1H), 7.40 d, 8 Hz (1H), 7.54 d, 8 Hz (1H), 7.57 dd, 7.1 Hz (1H), 7.76 d, 8 Hz (1H).

reactant | 2-(2-aminophenyl) indole | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | 3-(2-methoxyphenyl) propionic acid | COC1=C(C=CC=C1)CCC(=O)O | C10H12O3
product | N-[2-(1H-Indol-2-yl)-phenyl]-3-(2-methoxy-phenyl)-propionamide | 62% yield | N1C(=CC2=CC=CC=C12)C1=C(C=CC=C1)NC(CCC1=C(C=CC=C1)OC)=O | C24H22N2O2
